US05189179
2B) 7-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-(4-methoxyphenyl)-octanamide, monohydrochloride
Serotonin hydrochloride hemihydrate (222 mg), N-(4-methoxyphenyl)-7-oxo-octanamide (263.3 mg), and methanol (10 mL) were stirred in the dark and the resulting solution treated with sodium cyanoborohydride (95 mg). After 4 d at ca. 22° C., sodium bicarbonate (350 mg) and water (10 mL) were added. After stirring 1.5 hours, the mixture was extracted with 1:4 2-propanol:dichloromethane (3×25 mL) and the combined extracts were dried (Na2SO4) and concentrated in vacuo. Chromatography eluting with 4:10:90, then 3:30:70 triethylamine:ethanol:ethyl acetate gave a component with an Rf of 0.3 in the latter solvent system. This oil was reconcentrated twice from ethanol (50 mL), then redissolved in ethanol (ca. 50 mL), treated with 1:9 concentrated hydrochloric acid:ethanol (1.2 mL), and reconcentrated in vacuo to a pale yellow oil which foamed to a solid. This was the title compound (352 mg), isolated as a pale yellow solid.

reactant | N-(4-methoxyphenyl)-7-oxo-octanamide | 263.3 mg | COC1=CC=C(C=C1)NC(CCCCCC(C)=O)=O | C15H21NO3
reactant | sodium cyanoborohydride | 95 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 350 mg | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | ca. 50 mL | C(C)O | C2H6O
reactant | ethanol | 1.2 mL | C(C)O | C2H6O
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 7-[[2-(5-Hydroxy-1H-indol-3-yl)ethyl]amino]-N-(4-methoxyphenyl)-octanamide, monohydrochloride | 352 mg | Cl.OC=1C=C2C(=CNC2=CC1)CCNC(CCCCCC(=O)NC1=CC=C(C=C1)OC)C | InChI=1S/C25H33N3O3.ClH/c1-18(26-15-14-19-17-27-24-13-10-21(29)16-23(19)24)6-4-3-5-7-25(30)28-20-8-11-22(31-2)12-9-20;/h8-13,16-18,26-27,29H,3-7,14-15H2,1-2H3,(H,28,30);1H
